US04966905
2-Phenyl-2-methyl-5-[2-(3-pyridinyl)ethenyl]-3(2H)-furanone
To a solution of 3-pyridinecarboxaldehyde (1.03 g, 9.6 mM) and 2,5-dimethyl-2-phenyl-3(2H)-furanone (1.0 g, 8 mM) in ethanol (50 mL), was added 1N aqueous sodium hydroxide (2.4 mL, 2.4 mM). The reaction solution was heated at 60° C. for 8 hours. After the reaction solution cooled to room temperature, saturated aqueous sodium chloride (200 mL) was added. The aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a brown solid. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to afford a yellow crystalline solid (0.8 g, 36.3% yield), m.p. 106°-108° C.

reactant | 3-pyridinecarboxaldehyde | 9.6 mM, 1.03 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 2,5-dimethyl-2-phenyl-3(2H)-furanone | 8 mM, 1.0 g | CC1(OC(=CC1=O)C)C1=CC=CC=C1 | C12H12O2
reactant | sodium hydroxide | 1N, 2.4 mL | [OH-].[Na+]
reactant | sodium chloride | 200 mL | [Cl-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Phenyl-2-methyl-5-[2-(3-pyridinyl)ethenyl]-3(2H)-furanone | 0.8 g, 36.3% yield | C1(=CC=CC=C1)C1(OC(=CC1=O)C=CC=1C=NC=CC1)C | C18H15NO2
